US07855201B2
Step 1: 3-Bromo-6,7,8,9-tetrahydro-5H-benzo[7]annulen-5-ol
To a stirred solution of 1.91 g (8.0 mmol) of 3-bromo-6,7,8,9-tetrahydro-5H-benzo[7]annulen-5-one (J. Med. Chem. 2000, 43, 2049-2063) in 40 mL of ethanol under nitrogen cooled in an ice-bath was added 0.635 g (16.8 mmol, 2.1 equiv) of sodium borohydride. After three hours 32 mL of saturated sodium bicarbonate solution was added, and the mixture was concentrated under reduced pressure to remove the ethanol. The aqueous residue was diluted with 8 mL water and extracted with 2×80 mL of ethyl acetate. The combined extract was washed with 10 mL each of water and brine, dried over sodium sulfate, filtered, and concentrated to give product as a white crystalline solid. MS (m+1)=242.2; 1H NMR (400 MHz, CDCl3) 7.62 (s, 1H), 7.25 (m, 1H), 6.95 (d, 1H, J 8 Hz), 4.89 (d, 1H, J 9 Hz), 2.84 (m, 1H), 2.65 (d, 1H, J 12 Hz), 1.99 (m, 2H), 1.78 (m, 4H), 1.38 (m, 1H).

reactant | 3-bromo-6,7,8,9-tetrahydro-5H-benzo[7]annulen-5-one | 8.0 mmol, 1.91 g | BrC1=CC2=C(CCCCC2=O)C=C1 | C11H11BrO
reactant | sodium borohydride | 16.8 mmol, 0.635 g, 2.1 equiv | [BH4-].[Na+]
reactant | sodium bicarbonate | 32 mL | C([O-])(O)=O.[Na+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 3-Bromo-6,7,8,9-tetrahydro-5H-benzo[7]annulen-5-ol | BrC1=CC2=C(CCCCC2O)C=C1 | C11H13BrO
